US04426381
Pivaloyloxymethyl 7,8-methylenedioxy-5-oxo-1,2-dihydro-5H-thiazolo(3,2-a)-quinoline-4-carboxylate
7,8-Methylenedioxy-5-oxo-1,2-dihydro-5H-thiazolo(3,2-a)-quinoline-4-carboxylic acid (200 mg, 0.687 mmol) was dissolved in 5 ml of dimethyl formaide, then 152 mg of anhydrous potassium carbonate (1.1 mmol) and 328 mg (2.18 mmol) of pivaloyloxymethyl chloride were added thereto, the mixture was heated with stirring at 100° C. for six hours, the content was concentrated under reduced pressure, water was added to the residue, then insoluble matter was collected by filtration, washed with water, air dried and recrystallized from a mixture of chloroform and ether to give 200 mg of the title compound (71.9 percent yield). Melting point 229.0° to 229.5° C. Elementary analysis calculated as C19H19NO7S.1/4 H2O: C 55.67, H 4.79, N 3.42; Found: C 55.65, H 4.59, N 3.49.

reactant | 7,8-Methylenedioxy-5-oxo-1,2-dihydro-5H-thiazolo(3,2-a)-quinoline-4-carboxylic acid | 0.687 mmol, 200 mg | C1OC=2C=C3C(C(=C4N(C3=CC2O1)CCS4)C(=O)O)=O | C13H9NO5S
reactant | potassium carbonate | 1.1 mmol, 152 mg | C([O-])([O-])=O.[K+].[K+]
reactant | pivaloyloxymethyl chloride | 2.18 mmol, 328 mg | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
product | Pivaloyloxymethyl 7,8-methylenedioxy-5-oxo-1,2-dihydro-5H-thiazolo(3,2-a)-quinoline-4-carboxylate | 200 mg, 71.9 percent yield | C1OC=2C=C3C(C(=C4N(C3=CC2O1)CCS4)C(=O)OCOC(C(C)(C)C)=O)=O | C19H19NO7S
